US07846960B2
2-Butoxy-4-({[4-(tert-butyl-dimethyl-silanyloxy)-2-methyl-phenyl]-methyl-amino}-methyl)-benzoic Acid Methyl Ester
The title compound is prepared essentially according to the preparation of 4-({[4-(tert-butyl-dimethyl-silanyloxy)-2-methyl-phenyl]-methyl-amino}-methyl)-2-methyl-benzoic acid methyl ester starting from [4-(tert-butyl-dimethyl-silanyloxy)-2-methyl-phenyl]-methyl-amine and 2-butoxy-4-formyl-benzoic acid methyl ester. The title compound is obtained as syrup after workup and is used without further purification. LC-ES/MS m/e 472.3 (M+1).

reactant | 4-({[4-(tert-butyl-dimethyl-silanyloxy)-2-methyl-phenyl]-methyl-amino}-methyl)-2-methyl-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)CN(C)C1=C(C=C(C=C1)O[Si](C)(C)C(C)(C)C)C)C)=O | C24H35NO3Si
reactant | [4-(tert-butyl-dimethyl-silanyloxy)-2-methyl-phenyl]-methyl-amine | C(C)(C)(C)[Si](OC1=CC(=C(C=C1)NC)C)(C)C | C14H25NOSi
reactant | 2-butoxy-4-formyl-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)C=O)OCCCC)=O | C13H16O4
product | 2-Butoxy-4-({[4-(tert-butyl-dimethyl-silanyloxy)-2-methyl-phenyl]-methyl-amino}-methyl)-benzoic Acid Methyl Ester | COC(C1=C(C=C(C=C1)CN(C)C1=C(C=C(C=C1)O[Si](C)(C)C(C)(C)C)C)OCCCC)=O | C27H41NO4Si
